US08034938B2
tert-Butyl 3-[(11S)-9-(methylsulfonyl)-5-oxido-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (6.37 g, 13.4 mmol) was dissolved in 120 mL of CH2Cl2 and treated with 12 mL of concentrated NH4OH solution. The mixture was stirred rapidly and then p-toluenesulfonyl chloride (2.81 g, 14.7 mmol) was carefully added. Rapid stirring was continued for 3 hours. The reaction mixture was treated with 100 mL of CH2Cl2 and 25 mL of H2O. The layers were separated and the organic portion was washed successively with 2% Na2CO3 solution (3×50 mL), H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 33% CMA/CHCl3) gave tert-butyl 3-[(11S)-6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (5.41 g) as light-orange foam.

reactant | tert-Butyl 3-[(11S)-9-(methylsulfonyl)-5-oxido-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 13.4 mmol, 6.37 g | CS(=O)(=O)N1CC=2N(C3=C(C=[N+](C4=CC=CC=C34)[O-])N2)[C@H](C1)CCCNC(OC(C)(C)C)=O | C22H29N5O5S
reactant | NH4OH | 12 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 14.7 mmol, 2.81 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 25 mL | O | H2O
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-[(11S)-6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 5.41 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](CN(C1)S(=O)(=O)C)CCCNC(OC(C)(C)C)=O | C22H30N6O4S
